US06004959
1,5-dihydroxy-fluoren-9-one
In a manner analogous to Example 1D, prepare a solution of 1,5-dimethoxy-fluoren-9-one (0.65 g, 2.7 mmole) in 15 mL glacial acetic acid and react with 15 mL hydrogen bromide to obtain the title compound (m.p. 2361°-238° C. (dec.), yield 0.50 g, 2.3 mmole, 87%).

reactant | 1,5-dimethoxy-fluoren-9-one | 2.7 mmole, 0.65 g | COC1=CC=CC=2C3=C(C=CC=C3C(C12)=O)OC | C15H12O3
reactant | hydrogen bromide | 15 mL | Br | BrH
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 1,5-dihydroxy-fluoren-9-one | 2.3 mmole, yield 0.50 g, 87% | OC1=CC=CC=2C3=C(C=CC=C3C(C12)=O)O | C13H8O3
